US07569702B2
Production of 2-bromo-4-nitroimidazole
2-Bromo-5-iodo-4-nitroimidazole (1.00 g, 3.15 mmol) was dissolved in dimethylformamide (8 ml) and water (3 ml). The obtained solution was stirred under cooling on ice, and then, a 50% to 55% ammonium bisulfite aqueous solution (3.6 ml, 23.5 mmol with a content of 52.5%) was added thereto. The obtained mixture was stirred at room temperature for 3 days. Thereafter, cold water (30 ml) was added to the reaction product, followed by extraction with ethyl acetate 3 times (167 ml in total). The organic layer was washed with 5% saline twice and then dried (MgSO4), followed by vacuum concentration and exsiccation.

reactant | 2-Bromo-5-iodo-4-nitroimidazole | 3.15 mmol, 1.00 g | BrC=1NC(=C(N1)[N+](=O)[O-])I | C3HBrIN3O2
reactant | ammonium bisulfite | S([O-])(O)=O.[NH4+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | 3 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 2-bromo-4-nitroimidazole | BrC=1NC=C(N1)[N+](=O)[O-] | C3H2BrN3O2
